US04650865
Example 5: n-Octyloxyethyl hydroxyethyl methyl amine
318 grams (1.377 moles) of n-octyl sulfate, Na salt, 491.5 grams (4.130 moles) of N-methyl diethanolamine and 55.1 grams (1.377 moles) of sodium hydroxide were heated with stirring for 3 hours under a nitrogen atmosphere to 200° C. After cooling to 80° C., the mixture was washed four times with saturated sodium chloride solution and then dried at 80° C. under a vacuum in a rotary evaporator. Sodium chloride precipitated from the product was filtered. A red-brown liquid having an amine number of 238 was obtained in a quantity of 254 grams.

reactant | n-octyl sulfate | 1.377 moles, 318 grams | S(=O)(=O)(OCCCCCCCC)[O-]
reactant | N-methyl diethanolamine | 4.130 moles, 491.5 grams | CN(CCO)CCO | C5H13NO2
reactant | sodium hydroxide | 1.377 moles, 55.1 grams | [OH-].[Na+]
product | n-Octyloxyethyl hydroxyethyl methyl amine | C(CCCCCCC)OCCN(C)CCO | C13H29NO2
